US08466282B2
Tert-butyl (3S,5R)-3-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)piperidine-1-carboxylate
Hydroxylamine hydrochloride (418 mg) was dissolved in dimethyl sulfoxide (10 ml), and the mixture was stirred at 40° C. for 30 min. Sodium hydrogen carbonate (506 mg) was added, and the mixture was stirred at 50° C. for 1 hr. A solution of tert-butyl (3R,5S)-3-cyano-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate (308 mg) in dimethyl sulfoxide (10 ml) was further added, and the mixture was stirred at 90° C. for 3 hr. The reaction mixture was allowed to cool to room temperature, diluted with water, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (15 ml). 1,1′-Carbonylbis(1H-imidazole) (490 mg) and 1,8-diazabicyclo{5.4.0}undec-7-ene (450 μl) were added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate. The mixture was washed with 0.5M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (5:95)-ethyl acetate was concentrated under reduced pressure to give the object product (256 mg).

reactant | Hydroxylamine hydrochloride | 418 mg | Cl.NO
reactant | Sodium hydrogen carbonate | 506 mg | C(O)([O-])=O.[Na+]
reactant | tert-butyl (3R,5S)-3-cyano-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate | 308 mg | C(#N)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H41N5O4
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)piperidine-1-carboxylate | 256 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C2=NOC(N2)=O)C(=O)OC(C)(C)C)CC(C)C | C29H42N6O6
